US07417169B2
Methyl 4-bromo-2,6-dimethylbenzoate
A mixture of 4-bromo-2,6-dimethylphenyl trifluoromethanesulfonate (1.439 g), palladium acetate (0.049 g), 1,3-bis(diphenylphosphino)propane (0.089 g) and triethylamine (1.336 mL) in methanol (10 mL)/dimethylsulfoxide (15 mL) was stirred at 75° C. overnight under an atmosphere of carbon monoxide. Water and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/5) to afford the title compound (0.435 g).

reactant | 4-bromo-2,6-dimethylphenyl trifluoromethanesulfonate | 1.439 g | FC(S(=O)(=O)OC1=C(C=C(C=C1C)Br)C)(F)F | C9H8BrF3O3S
reactant | 1,3-bis(diphenylphosphino)propane | 0.089 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | triethylamine | 1.336 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylsulfoxide | 15 mL | CS(=O)C | C2H6OS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium acetate | 0.049 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Water | O | H2O
product | Methyl 4-bromo-2,6-dimethylbenzoate | 0.435 g | BrC1=CC(=C(C(=O)OC)C(=C1)C)C | C10H11BrO2
